US07544704B2
2-[3-(4-Chloro-phenyl)-5-methyl-isoxazol-4-ylethynyl]-pyridine
As described for example 11c, 3-(4-chloro-phenyl)-4-ethynyl-5-methyl-isoxazole (109 mg, 0.50 mmol) instead of 4-ethynyl-5-methyl-3-phenyl-isoxazole was converted (using 2-bromopyridine instead of 2-chloro-4-iodopyridine) to the title compound (SiO2, heptane:ethyl acetate=95:5 to 0:100, 129 mg, 87%) which was obtained as a light brown solid. MS: m/e=295.1 [M+H]+.

reactant | 3-(4-chloro-phenyl)-4-ethynyl-5-methyl-isoxazole | 0.50 mmol, 109 mg | ClC1=CC=C(C=C1)C1=NOC(=C1C#C)C | C12H8ClNO
reactant | 2-bromopyridine | BrC1=NC=CC=C1 | C5H4BrN
product | 2-[3-(4-Chloro-phenyl)-5-methyl-isoxazol-4-ylethynyl]-pyridine | 129 mg, 87% | ClC1=CC=C(C=C1)C1=NOC(=C1C#CC1=NC=CC=C1)C | C17H11ClN2O
